US05919803
2-Hydroxy-5-(5-trifluoromethyl-tetrazol-1-yl)-benzaldehyde
A solution of 4-(5-trifluoromethyl-tetrazol-1-yl)-phenol (45 mmol) in trifluoroacetic acid (200 ml) and hexamethylenetetramine (186.9 mmol) was heated at 100°, under nitrogen for 16 h. The reaction mixture was quenched with 2N sulphuric acid (250 ml) and extracted with ether (3×250 ml)). The combined organics were dried (Na2SO4) and evaporated to give a dark yellow oil. Purification by FCC (hexane/ether (2:1)) afforded the title compound (8.8 g) as a pale yellow solid. T.I.c. (hexane/ether (2:1)) Rf 0.36

reactant | 4-(5-trifluoromethyl-tetrazol-1-yl)-phenol | 45 mmol | FC(C1=NN=NN1C1=CC=C(C=C1)O)(F)F | C8H5F3N4O
reactant | hexamethylenetetramine | 186.9 mmol | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Hydroxy-5-(5-trifluoromethyl-tetrazol-1-yl)-benzaldehyde | 8.8 g | OC1=C(C=O)C=C(C=C1)N1N=NN=C1C(F)(F)F | C9H5F3N4O2
